US04792553
To 7.50 g (32.0 mmol) of 5-(2,4-dimethoxyphenyl)-2,4-pentadienoic acid were added 300 ml of dry dichloromethane and 4.46 ml (32.0 mmol) of triethylamine in the atmosphere of argon. The mixture was stirred at 0° C. followed by addition of 3.06 ml (32.0 mmol) of ethylcarbonyl chloride. The resulting mixture was stirred for 1 hour followed by addition of 11.04 g (38.4 mmol) of 4,4'-difluorobenzhydrylpiperazine in 50 ml of dry dichloromethane. Temperature of the mixture was raised to room temperature followed by stirring for additional 16 hours. After addition of water, the mixture was extracted with dichloromethane. The organic layer was washed successively with aqueous 1N-hydrochloric acid solution, a saturated aqueous solution of sodium chloride and a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. There was obtained a residue, which was subjected to column chromatography on silica gel to give 11.9 g (23.6 mmol) of 1-(4,4'-difluorobenzhydryl)-4-(5-(2,4-dimethoxyphenyl)-2,4-pentadienoyl)piperazine from eluate of ethyl acetate-hexane (1:1).

reactant | 5-(2,4-dimethoxyphenyl)-2,4-pentadienoic acid | 32.0 mmol, 7.50 g | COC1=C(C=CC(=C1)OC)C=CC=CC(=O)O | C13H14O4
reactant | triethylamine | 32.0 mmol, 4.46 ml | C(C)N(CC)CC | C6H15N
reactant | ethylcarbonyl chloride | 32.0 mmol, 3.06 ml | C(C)C(=O)Cl | C3H5ClO
reactant | 4,4'-difluorobenzhydrylpiperazine | 38.4 mmol, 11.04 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCNCC2)C=C1 | C17H18F2N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 1-(4,4'-difluorobenzhydryl)-4-(5-(2,4-dimethoxyphenyl)-2,4-pentadienoyl)piperazine | 23.6 mmol, 11.9 g | FC1=CC=C(C(C2=CC=C(C=C2)F)N2CCN(CC2)C(C=CC=CC2=C(C=C(C=C2)OC)OC)=O)C=C1 | C30H30F2N2O3
